US07696223B2
b) 1-Benzyl-4-(2,2-dimethyl-propionyloxy)-2,3-dipropyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 2,3-diallyl-1-benzyl-4-(2,2-dimethyl-propionyloxy)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (710 mg, 1.54 mmol), 10% Pd—C (100 mg) in EtOAc (20 mL) was stirred at 1 atm hydrogen atmosphere for two days at room temperature. Then the catalysts were filtered off through celite, the filtrate was concentrated to give an oil, the crude product (628 mg), which is pure and used directly in the next step. The title compound: ESI MS (m/z): 465 (M+H+).

reactant | 2,3-diallyl-1-benzyl-4-(2,2-dimethyl-propionyloxy)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.54 mmol, 710 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2CC=C)CC=C)CC2=CC=CC=C2)OC(C(C)(C)C)=O | C28H32N2O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 1-Benzyl-4-(2,2-dimethyl-propionyloxy)-2,3-dipropyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2CCC)CCC)CC2=CC=CC=C2)OC(C(C)(C)C)=O | C28H36N2O4
